US07138363B2
5.0 ml (0.16 equivalent) of N,N-dimethylformamide are added dropwise at 40° C., with stirring, to 150 ml (2.06 mol) of thionyl chloride. Then, in the course of half an hour, 50 g (0.406 mol) of picolinic acid are added. The mixture is cautiously heated to 70° C. and stirred at that temperature for 24 hours, the gases formed being conveyed away through a wash bottle charged with sodium hydroxide solution. Concentration, and coevaporation a further three times with 50 ml of toluene each time, are carried out. 300 ml of diethyl ether are added to the acid chloride-hydrochloride so obtained. The mixture is cooled to 0° C. using an ice/water bath, and 250 ml of 25% ammonium hydroxide solution are cautiously added. The mixture is warmed to room temperature and stirred for 16 hours to complete the reaction. Filtration is carried out, and the filter residue is boiled in 400 ml of chloroform to remove secondary products and recrystallised from 350 ml of methanol. 4-Chloro-2-picolinic acid amide is obtained in the form of a yellowish solid, which is reacted without further purification. 31.3 g (0.2 mol) of the amide obtained in that manner are suspended in 490 ml of dichloromethane and cooled to 0° C. using an ice/water bath. After the addition of 46.5 ml of N,N-dimethylformamide, 36.7 ml of phosphorus oxychloride are added dropwise in the course of 20 minutes while maintaining the temperature, and stirring is carried out for a further 6 hours with cooling. 100 ml of water are then added and the mixture is rendered neutral with 4N sodium hydroxide solution and stirred overnight at room temperature. The organic solvent is removed using a rotary evaporator, and the aqueous phase is extracted three times using 250 ml of chloroform each time. After concentrating and drying the crude product under a high vacuum, sublimation is carried out at from 70 to 90° C. and 0.2 mbar, yielding 4-chloro-2-cyanopyridine in the form of a yellowish soild.

reactant | N,N-dimethylformamide | 5.0 ml, 0.16 equivalent | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 2.06 mol, 150 ml | S(=O)(Cl)Cl | Cl2OS
reactant | picolinic acid | 0.406 mol, 50 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ammonium hydroxide | 250 ml | [OH-].[NH4+]
product | 4-Chloro-2-picolinic acid amide | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
